US05073563
3,4-Dimethyl-7-(2-methyl-1,3,4-oxadiazol-5-yl)-methoxycoumarin
5.0 g of 7-hydroxy-3,4-dimethylcoumarin in 20 ml of 0.9 g of NaH (80%) in 50 ml of dimethylformamide at room temperature. After 45 minutes, 3.5 g of 2-chloromethyl-5-methyl-1,3,4-oxadiazole, dissolved in 20 ml of dimethylformamide, were added and the mixture was stirred overnight at room temperature. The reaction solution was hydrolyzed with ice water, and the precipitated solid was filtered off under suction and recrystallized from methanol.

reactant | 7-hydroxy-3,4-dimethylcoumarin | 5.0 g | OC1=CC=C2C(=C(C(OC2=C1)=O)C)C | C11H10O3
reactant | 2-chloromethyl-5-methyl-1,3,4-oxadiazole | 3.5 g | ClCC=1OC(=NN1)C | C4H5ClN2O
reactant | dimethylformamide | 50 ml | CN(C=O)C | C3H7NO
reactant | dimethylformamide | 20 ml | CN(C=O)C | C3H7NO
solvent | NaH | 20 ml, 0.9 g | [H-].[Na+]
product | 3,4-Dimethyl-7-(2-methyl-1,3,4-oxadiazol-5-yl)-methoxycoumarin | CC=1C(OC2=CC(=CC(=C2C1C)OC)C1=NN=C(O1)C)=O | C15H14N2O4
